US07713994B2
To a solution of 6-Amino-4H-isoquinoline-1,3-dione (17.6 mg, 0.1 mmol) in trifluoroacetic acid (250 μL) is added 2,5-dimethoxytetrahydrofuran (15 μL, 0.11 mmol). The reaction mixture is shaken for 5 minutes at ambient temperature, followed by addition of sodium borohydride (9 mg, 0.22 mmol). After shaking at ambient temperature for 15 minutes, gas evolution had ceased and the reaction mixture is quenched with saturated bicarbonate solution. Upon quenching, a precipitate formed. The precipitate is filtered off, rinsed with water, and dried to yield 19.5 mg of 6-Pyrrolidin-1-yl-4H-isoquinoline-1,3-dione.

reactant | 6-Amino-4H-isoquinoline-1,3-dione | 0.1 mmol, 17.6 mg | NC=1C=C2CC(NC(C2=CC1)=O)=O | C9H8N2O2
reactant | 2,5-dimethoxytetrahydrofuran | 0.11 mmol, 15 μL | COC1OC(CC1)OC | C6H12O3
reactant | sodium borohydride | 0.22 mmol, 9 mg | [BH4-].[Na+]
solvent | trifluoroacetic acid | 250 μL | FC(C(=O)O)(F)F | C2HF3O2
product | 6-Pyrrolidin-1-yl-4H-isoquinoline-1,3-dione | 19.5 mg | N1(CCCC1)C=1C=C2CC(NC(C2=CC1)=O)=O | C13H14N2O2
